US05158971
2-(Phenylthio)thiophene
To a suspension of N-chlorosuccinimide (7.8 g) in benzene (30 ml) was added dropwise, a solution of thiophenol (5.51 g) in benzene (20 ml) at room temperature. After 1 hour, the suspension was filtered, the filter pad washed with benzene and the filtrate evaporated under reduced pressure to give an orange oil. The oil was dissolved in dry tetrahydrofuran (20 ml) and added dropwise to a solution of 2-thienyl-lithium (prepared by the addition of n-butyllithium (20 ml, 2.5M) to thiophene (4.2 g) in dry tetrahydrofuran (30 ml) at -15° C. under nitrogen and stirred for 2 hours) at -15° C. under N2. The solution was stirred for 1 hour, allowed to warm to room temperature and stirred overnight. The reaction mixture was poured on to ice, extracted with ether (3×100 ml), dried over MgSO4 and evaporated under reduced pressure to give a brown oil. The oil was flash chromatographed on a Sorbsil C60-40/60H column using petroleum ether (40°-60° C.) to give a colourless oil, b.p. 161° C./20 mm pressure.

reactant | N-chlorosuccinimide | 7.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | thiophenol | 5.51 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2-thienyl-lithium | S1C(=CC=C1)[Li]
reactant | n-butyllithium | 2.5M, 20 ml | C(CCC)[Li]
reactant | thiophene | 4.2 g | S1C=CC=C1 | C4H4S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(Phenylthio)thiophene | C1(=CC=CC=C1)SC=1SC=CC1 | C10H8S2
